US07777047B2
N-methyl-N-{2-[5-(2-oxoethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide
To a solution of N-{2-[5-(2-hydroxyethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide (2.78 g) in acetonitrile (150 mL) was added Dess-Martin reagent (3 g), and the mixture was stirred under heating at 70° C. for 30 min. The reaction mixture was allowed to cool to room temperature, water was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography to give the title compound (27 mg, yield 22%) as a brown amorphous solid from a fraction eluted with ethyl acetate:hexane=25:75. MS: 420 (MH+).

reactant | N-{2-[5-(2-hydroxyethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 2.78 g | OCCC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C18H19N3O3S3
reactant | Dess-Martin reagent | 3 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | water | O | H2O
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | N-methyl-N-{2-[5-(2-oxoethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide | 27 mg, yield 22% | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC=O | C18H17N3O3S3
